* Extracted by KLayout with SG13G2 LVS runset on : 27/03/2026 17:48

.SUBCKT iqmod_mfb_lpf_ota_core_inv_NF10 VSS vout vin VDD
M$1 VSS VSS VSS \$1 sg13_lv_nmos L=1u W=2u AS=0.53p AD=0.53p PS=4.06u PD=4.06u
+ rfmode=0
M$2 VSS vin vout \$1 sg13_lv_nmos L=1u W=10u AS=1.9p AD=1.9p PS=13.8u PD=13.8u
+ rfmode=0
M$13 VDD VDD VDD \$7 sg13_lv_pmos L=1u W=12u AS=3.18p AD=3.18p PS=19.06u
+ PD=19.06u rfmode=0
M$14 VDD vin vout \$7 sg13_lv_pmos L=1u W=60u AS=11.4p AD=11.4p PS=63.8u
+ PD=63.8u rfmode=0
R$25 VDD \$7 ntap1 A=15.78p P=105.2u
R$26 VSS \$1 ptap1 A=12.996p P=86.64u
.ENDS iqmod_mfb_lpf_ota_core_inv_NF10
